### PR TITLE
[Merged by Bors] - feat(CategoryTheory): the orthogonal-reflection construction

### PR DESCRIPTION
**Pull request by joelriou**
Given `W : MorphismProperty C` (which should be small) and assuming the existence of certain colimits in `C`, we construct a morphism `toSucc W Z : Z ⟶ succ W Z` for any `Z : C`. This morphism belongs to `LeftBousfield.W W.isLocal` and is an isomorphism iff `Z` belongs to `W.isLocal`. The main definition is a fix to the (wrong) construction in the book *Locally presentable and accessible categories* by Adámek and Rosický.
In a future PR, we shall consider a transfinite iteration of this construction.

---

- [x] depends on: #30472 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Localization/Bousfield.lean [hunk 1]
```diff
@@ -149,4 +159,14 @@ end LeftBousfield
 
 end Localization
 
+open Localization
+
+lemma ObjectProperty.le_rightOrthogonal_W (P : ObjectProperty C) :
+    P ≤ (LeftBousfield.W P).rightOrthogonal := by
+  rw [← LeftBousfield.le_W_iff]
+
+lemma MorphismProperty.le_leftBousfieldW_rightOthogonal (W : MorphismProperty C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Localization/Bousfield.lean]:
```suggestion
lemma MorphismProperty.le_leftBousfieldW_rightOrthogonal (W : MorphismProperty C) :
```

File: Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean [hunk 2]
```diff
@@ -0,0 +1,230 @@
...
+    refine ⟨f, hf, ?_⟩
+    ext ⟨⟩
+    dsimp
+    ext d
+    · simp only [Category.assoc] at hf
+      simp only [Category.comp_id, ← Category.assoc]
+      refine D₂.condition _ d.1.2 ?_
+      rw [Category.assoc, Category.assoc, Category.assoc]
+      rw [← D₁.ι_comp_t_assoc, pushout.condition_assoc, reassoc_of% hf,
+        ← D₁.ι_comp_t_assoc, pushout.condition]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean]:
```suggestion
      rw [Category.assoc, Category.assoc, Category.assoc,
        ← D₁.ι_comp_t_assoc, pushout.condition_assoc, reassoc_of% hf,
        ← D₁.ι_comp_t_assoc, pushout.condition]
```

File: Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean [hunk 3]
```diff
@@ -0,0 +1,230 @@
...
+/-!
+# The Orthogonal-reflection construction
+
+Given `W : MorphismProperty C` (which should be small) and assuming the existence
+of certain colimits in `C`, we construct a morphism `toSucc W Z : Z ⟶ succ W Z` for
+any `Z : C`. This morphism belongs to `LeftBousfield.W W.isLocal` and
+is an isomorphism iff `Z` belongs to `W.isLocal`.
+
+## References
+* [Adámek, J. and Rosický, J., *Locally presentable and accessible categories*][Adamek_Rosicky_1994]
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean:43]: Would you mind giving more specific references where possible?

(I am inclined to simply assume that the definition here faithfully reflects what is in the book, but I wouldn't mind being able to quickly check. :-)

Comment (joelriou) [reply Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean:43]: Actually, the definition in the book (p. 32) is wrong! and I could not understand what the authors meant in their attempt at fixing it in their list of errata, but I was able to fix it anyway (#30554 contains the existence of the left adjoint to the inclusion of local objects).
I will add comments about it later.

Comment (joelriou) [reply Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean:43]: I have added more details in the docstring of the file.

File: Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean [hunk 4]
```diff
@@ -0,0 +1,252 @@
...
+-/
+import Mathlib.CategoryTheory.Limits.Shapes.Multiequalizer
+import Mathlib.CategoryTheory.Localization.Bousfield
+import Mathlib.CategoryTheory.SmallObject.Iteration.Basic
+
+/-!
+# The Orthogonal-reflection construction
+
+Given `W : MorphismProperty C` (which should be small) and assuming the existence
+of certain colimits in `C`, we construct a morphism `toSucc W Z : Z ⟶ succ W Z` for
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean]:
```suggestion
of certain colimits in `C`, we construct an object `succ W Z` and a morphism `toSucc W Z : Z ⟶ succ W Z` for
```

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean]: Otherwise it sounds like I'm supposed to already know what `succ W Z` means :)

File: Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean [hunk 5]
```diff
@@ -0,0 +1,252 @@
...
+variable {W Z} in
+@[reassoc]
+lemma D₁.ιLeft_comp_t {X Y : C} (f : X ⟶ Y) (hf : W f) (g : X ⟶ Z) :
+    D₁.ιLeft f hf g ≫ D₁.t W Z = f ≫ D₁.ιRight f hf g := by
+  apply ι_colimMap
+
+variable [HasPushouts C]
+
+/-- The intermediate object in the definition of the morphism `toSucc W Z : Z ⟶ succ W Z`.
+It is the pushout of the following square:
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean:124]:
```suggestion
It is defined by the following pushout square:
```

File: Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean [hunk 6]
```diff
@@ -0,0 +1,252 @@
...
+satisfying `W` and a morphism `X ⟶ Z`. The top map is the coproduct of all of these `f`.
+-/
+noncomputable abbrev step := pushout (D₁.t W Z) (D₁.l W Z)
+
+/-- The canonical map from `Z` to the pushout of `D₁.t W Z` and `D₁.l W Z`. -/
+noncomputable abbrev toStep : Z ⟶ step W Z := pushout.inr _ _
+
+/-- The index type parametrising the data of two morphisms `g₁ g₂ : Y ⟶ step W Z`, and
+a map `f : X ⟶ Y` satisfying `W` such that `f ≫ g₁ = f ≫ g₂`. -/
+def D₂ : Type _ :=
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean]:
```suggestion
def D₂ : Type (max u v) :=
```

File: Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean (hunk 4 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Presentable/OrthogonalReflection.lean]: Maybe also say already here that your goal is to define a `SuccStruct`, and refer to where that is defined

**Review by dagurtomas — COMMENTED** [review]
Minor documentation comments, otherwise LGTM.

maintainer delegate

**Comment by joelriou** [comment]
Thanks @dagurtomas for the suggestions!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
